US05434186
Preparation of 7-(Carboxymethoxy)-2-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-1-naphthalenepropanoic Acid
A mixture of 0.86 g (1.39 mmol) of 2-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-7-(2-ethoxy-2-oxoethoxy)-1-naphthalenepropanoic acid ethyl ester from the preceding example, 0.177 g (4.21 mmol) of lithium hydroxide monohydrate, 10.1 mL of tetrahydrofuran, and 10.1 mL of water was stirred at room temperature for 41.5 hr. A second saponification was carried out with 0.188 g (0.3 mmol) of the starting ester, 38 mg (0.9 mmol) of lithium hydroxide monohydrate, 2.2 mL of tetrahydrofuran and 2.2 mL of water. After combining the two reaction mixtures, 30 mL of 3N aqueous sulfuric acid was added, and the mixture was worked-up with ethyl acetate in the usual manner. The crude product was crystallized from hexane-ethyl acetate to give 0.803 g (84.3%) of the title compound as an off-white solid, mp 175°-177.5° C.

reactant | 2-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-7-(2-ethoxy-2-oxoethoxy)-1-naphthalenepropanoic acid ethyl ester | 1.39 mmol, 0.86 g | C(C)OC(CCC1=C(C=CC2=CC=C(C=C12)OCC(=O)OCC)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C36H44O9
reactant | lithium hydroxide monohydrate | 4.21 mmol, 0.177 g | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 0.9 mmol, 38 mg | O.[OH-].[Li+]
reactant | sulfuric acid | 3N, 30 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2.2 mL | O | H2O
solvent | tetrahydrofuran | 2.2 mL | O1CCCC1 | C4H8O
solvent | water | 10.1 mL | O | H2O
solvent | tetrahydrofuran | 10.1 mL | O1CCCC1 | C4H8O
product | 7-(Carboxymethoxy)-2-[[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyl]oxy]-1-naphthalenepropanoic Acid | 0.803 g, 84.3% | C(=O)(O)COC1=CC=C2C=CC(=C(C2=C1)CCC(=O)O)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C32H36O9
